US05602277
Methyl 3-formyl-4-[(methylsulfonyl)amino]-5-nitrobenzoate (2.0 g, 0.0066 mol) was dissolved in ethanol (50 mL) and hydrogenated at 30 psi in the presence of platinum oxide (Aldrich, 0.1 g) for 4 h. The catalyst was removed by filtration through Celite and the filtrate was concentrated to dryness. The residue was recrystallized from methanolethyl acetate-hexane to give 0.8 g (44%) of methyl 3-amino-5-hydroxymethyl-4-[(methylsulfonyl)amino]benzoate as a light brown powder, mp 150°-155° C.

reactant | Methyl 3-formyl-4-[(methylsulfonyl)amino]-5-nitrobenzoate | 0.0066 mol, 2.0 g | C(=O)C=1C=C(C(=O)OC)C=C(C1NS(=O)(=O)C)[N+](=O)[O-] | C10H10N2O7S
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | methyl 3-amino-5-hydroxymethyl-4-[(methylsulfonyl)amino]benzoate | 0.8 g, 44% | NC=1C=C(C(=O)OC)C=C(C1NS(=O)(=O)C)CO | C10H14N2O5S
